US05627203
Step C: (Z)-3-Methyl-8-[(2-amino-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole
Add 0.3 ml (6.1 mmol) of hydrazine hydrate to a solution of 0.85 g (2.2 mmol) of (Z)-3-methyl-8-[(2-phthalimido-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole in 50 ml of a mixture of ethanol/isopropanol, 1:1. The reaction mixture is heated to reflux. After refluxing the mixture for 30 minutes, add 0.3 ml of hydrazine hydrate and heat at reflux again for 90 minutes. Add 0.5 ml of hydrazine hydrate during the course of the 90 minutes' refluxing. After cooling the reaction mixture, the precipitate formed is removed by filtration and the filtrate is concentrated under reduced pressure. The residue is extracted with diethyl ether and the ethereal phase is washed with water, dried over magnesium sulfate, treated with animal charcoal and concentrated to yield 200 mg of the title product in the form of an oil (base).

reactant | hydrazine hydrate | 6.1 mmol, 0.3 ml | O.NN
reactant | (Z)-3-methyl-8-[(2-phthalimido-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole | 2.2 mmol, 0.85 g | CC1=CSC=2\C(\C=3N(C21)C=CC3)=N/OCCN3C(C=2C(C3=O)=CC=CC2)=O | C20H15N3O3S
reactant | hydrazine hydrate | 0.3 ml | O.NN
reactant | hydrazine hydrate | 0.5 ml | O.NN
solvent | ethanol isopropanol | C(C)O.C(C)(C)O
product | (Z)-3-Methyl-8-[(2-amino-ethoxy)imino]thieno[2,3-d]pyrrolo[1,2-a]pyrrole | 200 mg | CC1=CSC=2\C(\C=3N(C21)C=CC3)=N/OCCN | C12H13N3OS
